* NGSPICE file created from counter_dut.ext - technology: sky130A

* Black-box entry subcircuit for sky130_fd_sc_hd__dfxtp_1 abstract view
.subckt sky130_fd_sc_hd__dfxtp_1 CLK D VGND VNB VPB VPWR Q
.ends

* Black-box entry subcircuit for sky130_fd_sc_hd__buf_2 abstract view
.subckt sky130_fd_sc_hd__buf_2 A VGND VNB VPB VPWR X
.ends

* Black-box entry subcircuit for sky130_fd_sc_hd__decap_3 abstract view
.subckt sky130_fd_sc_hd__decap_3 VGND VNB VPB VPWR
.ends

* Black-box entry subcircuit for sky130_fd_sc_hd__fill_1 abstract view
.subckt sky130_fd_sc_hd__fill_1 VGND VNB VPB VPWR
.ends

* Black-box entry subcircuit for sky130_fd_sc_hd__decap_6 abstract view
.subckt sky130_fd_sc_hd__decap_6 VGND VNB VPB VPWR
.ends

* Black-box entry subcircuit for sky130_fd_sc_hd__xor2_1 abstract view
.subckt sky130_fd_sc_hd__xor2_1 A B VGND VNB VPB VPWR X
.ends

* Black-box entry subcircuit for sky130_fd_sc_hd__nand4_1 abstract view
.subckt sky130_fd_sc_hd__nand4_1 A B C D VGND VNB VPB VPWR Y
.ends

* Black-box entry subcircuit for sky130_fd_sc_hd__a31o_1 abstract view
.subckt sky130_fd_sc_hd__a31o_1 A1 A2 A3 B1 VGND VNB VPB VPWR X
.ends

* Black-box entry subcircuit for sky130_fd_sc_hd__o21ai_1 abstract view
.subckt sky130_fd_sc_hd__o21ai_1 A1 A2 B1 VGND VNB VPB VPWR Y
.ends

* Black-box entry subcircuit for sky130_fd_sc_hd__tapvpwrvgnd_1 abstract view
.subckt sky130_fd_sc_hd__tapvpwrvgnd_1 VGND VPWR
.ends

* Black-box entry subcircuit for sky130_ef_sc_hd__decap_12 abstract view
.subckt sky130_ef_sc_hd__decap_12 VPWR VGND VPB VNB
.ends

* Black-box entry subcircuit for sky130_fd_sc_hd__nor2_1 abstract view
.subckt sky130_fd_sc_hd__nor2_1 A B VGND VNB VPB VPWR Y
.ends

* Black-box entry subcircuit for sky130_fd_sc_hd__a21oi_1 abstract view
.subckt sky130_fd_sc_hd__a21oi_1 A1 A2 B1 VGND VNB VPB VPWR Y
.ends

* Black-box entry subcircuit for sky130_fd_sc_hd__nand2b_1 abstract view
.subckt sky130_fd_sc_hd__nand2b_1 A_N B VGND VNB VPB VPWR Y
.ends

* Black-box entry subcircuit for sky130_fd_sc_hd__clkbuf_16 abstract view
.subckt sky130_fd_sc_hd__clkbuf_16 A VGND VNB VPB VPWR X
.ends

* Black-box entry subcircuit for sky130_fd_sc_hd__nand2_1 abstract view
.subckt sky130_fd_sc_hd__nand2_1 A B VGND VNB VPB VPWR Y
.ends

* Black-box entry subcircuit for sky130_fd_sc_hd__o31ai_1 abstract view
.subckt sky130_fd_sc_hd__o31ai_1 A1 A2 A3 B1 VGND VNB VPB VPWR Y
.ends

* Black-box entry subcircuit for sky130_fd_sc_hd__decap_8 abstract view
.subckt sky130_fd_sc_hd__decap_8 VGND VNB VPB VPWR
.ends

* Black-box entry subcircuit for sky130_fd_sc_hd__inv_2 abstract view
.subckt sky130_fd_sc_hd__inv_2 A VGND VNB VPB VPWR Y
.ends

* Black-box entry subcircuit for sky130_fd_sc_hd__decap_4 abstract view
.subckt sky130_fd_sc_hd__decap_4 VGND VNB VPB VPWR
.ends

* Black-box entry subcircuit for sky130_fd_sc_hd__buf_1 abstract view
.subckt sky130_fd_sc_hd__buf_1 A VGND VNB VPB VPWR X
.ends

* Black-box entry subcircuit for sky130_fd_sc_hd__fill_2 abstract view
.subckt sky130_fd_sc_hd__fill_2 VGND VNB VPB VPWR
.ends

* Black-box entry subcircuit for sky130_fd_sc_hd__xnor2_1 abstract view
.subckt sky130_fd_sc_hd__xnor2_1 A B VGND VNB VPB VPWR Y
.ends

* Black-box entry subcircuit for sky130_fd_sc_hd__dlygate4sd3_1 abstract view
.subckt sky130_fd_sc_hd__dlygate4sd3_1 A VGND VNB VPB VPWR X
.ends

* Black-box entry subcircuit for sky130_fd_sc_hd__nand3_1 abstract view
.subckt sky130_fd_sc_hd__nand3_1 A B C VGND VNB VPB VPWR Y
.ends

* Black-box entry subcircuit for sky130_fd_sc_hd__a21o_1 abstract view
.subckt sky130_fd_sc_hd__a21o_1 A1 A2 B1 VGND VNB VPB VPWR X
.ends

* Black-box entry subcircuit for sky130_fd_sc_hd__or2_1 abstract view
.subckt sky130_fd_sc_hd__or2_1 A B VGND VNB VPB VPWR X
.ends

.subckt counter_dut VGND VPWR clk counter[0] counter[1] counter[2] counter[3] enable
+ reset up_down
X_49_ clknet_1_1__leaf_clk net11 VGND VGND VPWR VPWR net7 sky130_fd_sc_hd__dfxtp_1
Xoutput7 net7 VGND VGND VPWR VPWR counter[3] sky130_fd_sc_hd__buf_2
XPHY_EDGE_ROW_6_Right_6 VGND VGND VPWR VPWR sky130_fd_sc_hd__decap_3
X_48_ clknet_1_0__leaf_clk _02_ VGND VGND VPWR VPWR net6 sky130_fd_sc_hd__dfxtp_1
XFILLER_0_25 VGND VGND VPWR VPWR sky130_fd_sc_hd__decap_3
X_47_ clknet_1_1__leaf_clk _01_ VGND VGND VPWR VPWR net5 sky130_fd_sc_hd__dfxtp_1
XFILLER_3_3 VGND VGND VPWR VPWR sky130_fd_sc_hd__fill_1
XFILLER_0_15 VGND VGND VPWR VPWR sky130_fd_sc_hd__decap_6
X_46_ clknet_1_0__leaf_clk _00_ VGND VGND VPWR VPWR net4 sky130_fd_sc_hd__dfxtp_1
X_29_ net4 net5 VGND VGND VPWR VPWR _09_ sky130_fd_sc_hd__xor2_1
XFILLER_6_27 VGND VGND VPWR VPWR sky130_fd_sc_hd__fill_1
X_44_ net1 net10 _19_ _20_ VGND VGND VPWR VPWR _22_ sky130_fd_sc_hd__nand4_1
X_45_ _04_ _21_ _22_ _06_ VGND VGND VPWR VPWR _03_ sky130_fd_sc_hd__a31o_1
X_28_ net9 _05_ _08_ VGND VGND VPWR VPWR _00_ sky130_fd_sc_hd__o21ai_1
XTAP_TAPCELL_ROW_2_17 VGND VPWR sky130_fd_sc_hd__tapvpwrvgnd_1
XFILLER_0_29 VPWR VGND VPWR VGND sky130_ef_sc_hd__decap_12
XFILLER_1_3 VGND VGND VPWR VPWR sky130_fd_sc_hd__decap_3
X_26_ net1 net2 VGND VGND VPWR VPWR _07_ sky130_fd_sc_hd__nor2_1
X_27_ net4 _07_ _06_ VGND VGND VPWR VPWR _08_ sky130_fd_sc_hd__a21oi_1
X_43_ net1 _19_ _20_ net7 VGND VGND VPWR VPWR _21_ sky130_fd_sc_hd__a31o_1
XFILLER_3_18 VGND VGND VPWR VPWR sky130_fd_sc_hd__fill_1
X_42_ net3 net6 VGND VGND VPWR VPWR _20_ sky130_fd_sc_hd__nand2b_1
X_25_ _04_ net3 VGND VGND VPWR VPWR _06_ sky130_fd_sc_hd__nor2_1
XPHY_EDGE_ROW_3_Left_11 VGND VGND VPWR VPWR sky130_fd_sc_hd__decap_3
XPHY_EDGE_ROW_1_Right_1 VGND VGND VPWR VPWR sky130_fd_sc_hd__decap_3
Xclkbuf_0_clk clk VGND VGND VPWR VPWR clknet_0_clk sky130_fd_sc_hd__clkbuf_16
X_24_ net1 _04_ VGND VGND VPWR VPWR _05_ sky130_fd_sc_hd__nand2_1
X_41_ net3 net4 net5 _15_ VGND VGND VPWR VPWR _19_ sky130_fd_sc_hd__o31ai_1
XFILLER_7_20 VGND VGND VPWR VPWR sky130_fd_sc_hd__decap_8
XPHY_EDGE_ROW_5_Right_5 VGND VGND VPWR VPWR sky130_fd_sc_hd__decap_3
X_40_ _05_ _17_ _18_ VGND VGND VPWR VPWR _02_ sky130_fd_sc_hd__o21ai_1
X_23_ net2 VGND VGND VPWR VPWR _04_ sky130_fd_sc_hd__inv_2
XFILLER_7_10 VGND VGND VPWR VPWR sky130_fd_sc_hd__decap_6
XPHY_EDGE_ROW_7_Left_15 VGND VGND VPWR VPWR sky130_fd_sc_hd__decap_3
XPHY_EDGE_ROW_0_Left_8 VGND VGND VPWR VPWR sky130_fd_sc_hd__decap_3
XFILLER_4_23 VGND VGND VPWR VPWR sky130_fd_sc_hd__fill_1
XFILLER_1_34 VGND VGND VPWR VPWR sky130_fd_sc_hd__decap_4
Xinput1 enable VGND VGND VPWR VPWR net1 sky130_fd_sc_hd__buf_1
XFILLER_1_46 VGND VGND VPWR VPWR sky130_fd_sc_hd__decap_3
XFILLER_1_13 VGND VGND VPWR VPWR sky130_fd_sc_hd__fill_2
Xinput2 reset VGND VGND VPWR VPWR net2 sky130_fd_sc_hd__buf_1
Xinput3 up_down VGND VGND VPWR VPWR net3 sky130_fd_sc_hd__buf_1
XPHY_EDGE_ROW_0_Right_0 VGND VGND VPWR VPWR sky130_fd_sc_hd__decap_3
XTAP_TAPCELL_ROW_0_16 VGND VPWR sky130_fd_sc_hd__tapvpwrvgnd_1
XPHY_EDGE_ROW_2_Left_10 VGND VGND VPWR VPWR sky130_fd_sc_hd__decap_3
XFILLER_7_16 VGND VGND VPWR VPWR sky130_fd_sc_hd__fill_1
XPHY_EDGE_ROW_1_Left_9 VGND VGND VPWR VPWR sky130_fd_sc_hd__decap_3
XPHY_EDGE_ROW_6_Left_14 VGND VGND VPWR VPWR sky130_fd_sc_hd__decap_3
XPHY_EDGE_ROW_4_Right_4 VGND VGND VPWR VPWR sky130_fd_sc_hd__decap_3
XTAP_TAPCELL_ROW_6_19 VGND VPWR sky130_fd_sc_hd__tapvpwrvgnd_1
Xclkbuf_1_0__f_clk clknet_0_clk VGND VGND VPWR VPWR clknet_1_0__leaf_clk sky130_fd_sc_hd__clkbuf_16
X_39_ net8 _07_ _06_ VGND VGND VPWR VPWR _18_ sky130_fd_sc_hd__a21oi_1
X_38_ _10_ _16_ VGND VGND VPWR VPWR _17_ sky130_fd_sc_hd__xnor2_1
XTAP_TAPCELL_ROW_7_20 VGND VPWR sky130_fd_sc_hd__tapvpwrvgnd_1
Xhold2 net4 VGND VGND VPWR VPWR net9 sky130_fd_sc_hd__dlygate4sd3_1
Xhold1 net6 VGND VGND VPWR VPWR net8 sky130_fd_sc_hd__dlygate4sd3_1
X_37_ _14_ _15_ VGND VGND VPWR VPWR _16_ sky130_fd_sc_hd__nand2_1
Xhold3 net7 VGND VGND VPWR VPWR net10 sky130_fd_sc_hd__dlygate4sd3_1
XFILLER_2_22 VGND VGND VPWR VPWR sky130_fd_sc_hd__fill_2
X_36_ net4 net5 net6 VGND VGND VPWR VPWR _15_ sky130_fd_sc_hd__nand3_1
Xhold4 _03_ VGND VGND VPWR VPWR net11 sky130_fd_sc_hd__dlygate4sd3_1
X_35_ net4 net5 net6 VGND VGND VPWR VPWR _14_ sky130_fd_sc_hd__a21o_1
X_34_ net1 _04_ _12_ _13_ VGND VGND VPWR VPWR _01_ sky130_fd_sc_hd__a31o_1
XFILLER_2_6 VGND VGND VPWR VPWR sky130_fd_sc_hd__decap_4
XFILLER_0_3 VPWR VGND VPWR VGND sky130_ef_sc_hd__decap_12
Xclkbuf_1_1__f_clk clknet_0_clk VGND VGND VPWR VPWR clknet_1_1__leaf_clk sky130_fd_sc_hd__clkbuf_16
XPHY_EDGE_ROW_3_Right_3 VGND VGND VPWR VPWR sky130_fd_sc_hd__decap_3
X_33_ net5 _07_ _06_ VGND VGND VPWR VPWR _13_ sky130_fd_sc_hd__a21o_1
XPHY_EDGE_ROW_5_Left_13 VGND VGND VPWR VPWR sky130_fd_sc_hd__decap_3
X_31_ net3 _09_ VGND VGND VPWR VPWR _11_ sky130_fd_sc_hd__nand2_1
X_32_ _10_ _11_ VGND VGND VPWR VPWR _12_ sky130_fd_sc_hd__nand2_1
X_30_ net3 _09_ VGND VGND VPWR VPWR _10_ sky130_fd_sc_hd__or2_1
XPHY_EDGE_ROW_7_Right_7 VGND VGND VPWR VPWR sky130_fd_sc_hd__decap_3
XTAP_TAPCELL_ROW_4_18 VGND VPWR sky130_fd_sc_hd__tapvpwrvgnd_1
XFILLER_0_21 VGND VGND VPWR VPWR sky130_fd_sc_hd__fill_1
XPHY_EDGE_ROW_2_Right_2 VGND VGND VPWR VPWR sky130_fd_sc_hd__decap_3
Xoutput4 net4 VGND VGND VPWR VPWR counter[0] sky130_fd_sc_hd__buf_2
Xoutput5 net5 VGND VGND VPWR VPWR counter[1] sky130_fd_sc_hd__buf_2
XFILLER_5_3 VGND VGND VPWR VPWR sky130_fd_sc_hd__fill_2
XPHY_EDGE_ROW_4_Left_12 VGND VGND VPWR VPWR sky130_fd_sc_hd__decap_3
Xoutput6 net6 VGND VGND VPWR VPWR counter[2] sky130_fd_sc_hd__buf_2
.ends

